US06096753
Step B: 5-(4-Fluorophenyl)-3-methyl-2-(4-phenylbutyl)-6-(4-pyridyl)-4(3 H)-pyrimidinone:
Methyl iodide (22 μl, 0.351 mmol) was added to a stirring mixture of 5-(4-fluorophenyl)-2-(4-phenylbutyl)-6-(4-pyridyl)-4(3 H)-pyrimidinone (140 mg, 0.351 mmol) and potassium carbonate (49 mg, 0.351 mmol) in N,N-dimethylformamide (5 ml). After 75 min, it was evaporated and the resultant product purified on a silica gel column (hexane-acetone=3:1; 2:1) to provide the title compound. MS (m/z): 414.3 (M+H)+ ; C26H24FN3O requir. 413.5.

reactant | Methyl iodide | 0.351 mmol, 22 μl | CI | CH3I
reactant | 5-(4-fluorophenyl)-2-(4-phenylbutyl)-6-(4-pyridyl)-4(3 H)-pyrimidinone | 0.351 mmol, 140 mg | FC1=CC=C(C=C1)C=1C(NC(=NC1C1=CC=NC=C1)CCCCC1=CC=CC=C1)=O | C25H22FN3O
reactant | potassium carbonate | 0.351 mmol, 49 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(4-Fluorophenyl)-3-methyl-2-(4-phenylbutyl)-6-(4-pyridyl)-4(3 H)-pyrimidinone | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)CCCCC1=CC=CC=C1)C)=O | C26H24FN3O
